US08247403B2
(3) 4-benzyl-9-bromo-8-fluoro-2,3,4,5-tetrahydro-1,4-benzoxazepine
To a solution of 4-benzyl-9-bromo-8-fluoro-3,4-dihydro-1,4-benzoxazepine-5 (2H)-one (3.23 g, 9.22 mmol) in tetrahydrofuran (10 ml) was added under ice-cooling 1M borane-tetrahydrofuran solution (46 ml, 46.1 mmol), and the mixture was refluxed for 2 hr. Under ice-cooling, methanol was added, and the solvent was evaporated under reduced pressure. 6N hydrochloric acid (46 ml) was added, and the mixture was stirred at 100° C. for 1 hr. The solution was basified with 8N sodium hydroxide solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give the desired product (2.94 g, 94.8%) as an oil.

reactant | 4-benzyl-9-bromo-8-fluoro-3,4-dihydro-1,4-benzoxazepine-5 (2H)-one | 9.22 mmol, 3.23 g | C(C1=CC=CC=C1)N1CCOC2=C(C1=O)C=CC(=C2Br)F | C16H13BrFNO2
reactant | borane tetrahydrofuran | 46.1 mmol, 1M, 46 ml | B.O1CCCC1
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-benzyl-9-bromo-8-fluoro-2,3,4,5-tetrahydro-1,4-benzoxazepine | 2.94 g, 94.8% | C(C1=CC=CC=C1)N1CCOC2=C(C1)C=CC(=C2Br)F | C16H15BrFNO
